US05045223
N-(3-Pyridinylmethylene)benzenesulfonamide
A stirred mixture consisting of 4.00 g (37 mmol) of 3-pyridinecarboxaldehyde, 5.88 g (37 mmol) of benzenesulfonamide and 20 mg of p-toluenesulfonic acid monohydrate in 120 mL of toluene was heated to reflux under a blanket of nitrogen. The reaction vessel was equipped with a Soxhlet extractor containing 4A molecular sieves. After heating 18 hours, the mixture was allowed to cool to approximately 40° C. and was filtered to remove colored impurities. Addition of hexane to the filtrate led to precipitation of a white solid. Filtration provided 9.10 g (73%) of sulfonimine: mp 123° C.; IR (Nujol) 1640, 1605, 1585, 1560, 1300, 1280, 1220, 860 cm-1 ; 1H NMR (CDCl3, TMS, 60 MHz) δ9.15 (s, 1), 8.9-8.7 (m, 2), 8.4-7.4 (m, 7).

reactant | 3-pyridinecarboxaldehyde | 37 mmol, 4.00 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | benzenesulfonamide | 37 mmol, 5.88 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | p-toluenesulfonic acid monohydrate | 20 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Pyridinylmethylene)benzenesulfonamide | N1=CC(=CC=C1)C=NS(=O)(=O)C1=CC=CC=C1 | C12H10N2O2S
